US05705499
b) 5,11-Dihydro-11-ethyl-2-fluoro-8-[2-(pyrid-4-yl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
8-Bromo-2-fluoro-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (70 mg, 0.2 mmol) was coupled with 4-vinylpyridine in the presence of bis(triphenylphosphine)palladium(II) chloride and (i-Pr)2NEt as described in example 1h. The product was hydrogenated as described in example 3b. Purification by flash chromatography (elution with methanol-dichloromethane) and recrystallization (diethyl ether-petroleum ether) afforded 26 mg of the title compound as white crystals, m.p. 109°-111° C.

reactant | 8-Bromo-2-fluoro-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.2 mmol, 70 mg | BrC1=CC2=C(N(C3=C(N(C2=O)C)C=CC(=N3)F)CC)N=C1 | C14H12BrFN4O
reactant | 4-vinylpyridine | C(=C)C1=CC=NC=C1 | C7H7N
reactant | (i-Pr)2NEt | CCN(C(C)C)C(C)C | C8H19N
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5,11-Dihydro-11-ethyl-2-fluoro-8-[2-(pyrid-4-yl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 26 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCC3=CC=NC=C3)=O)C)C=CC(=N2)F | C21H20FN5O
